US07101892B2
1-(4-Benzenesulfonyl-4-methylpentyl)-3-(1-methyl-1-benzenesulfonylamino)piperidine
Benzenesulfonyl chloride (90 μL, 0.7 mmol) was added to a solution of 1-(4-benzenesulfonyl-4-methylpentyl)-3-(methylamino)piperidine (0.22 g, 0.65 mmol) and triethylamine (180 μL, 1.3 mmol) in dichloromethane (5 ml). The reaction was stirred at room temperature for 30 minutes. The mixture was diluted with dichloromethane and washed with water (×2). The organic layer was dried (MgSO4) and concentrated in vacuo. The residue was purified by flash column chromatography on silica gel, eluting with 2–5% methanol/dichloromethane, to give the title compound (220 mg, 76%).

reactant | Benzenesulfonyl chloride | 0.7 mmol, 90 μL | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
reactant | 1-(4-benzenesulfonyl-4-methylpentyl)-3-(methylamino)piperidine | 0.65 mmol, 0.22 g | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)NC)(C)C | C18H30N2O2S
reactant | triethylamine | 1.3 mmol, 180 μL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
product | 1-(4-Benzenesulfonyl-4-methylpentyl)-3-(1-methyl-1-benzenesulfonylamino)piperidine | 220 mg, 76% | C1(=CC=CC=C1)S(=O)(=O)C(CCCN1CC(CCC1)NS(=O)(=O)C1(CC=CC=C1)C)(C)C | C24H36N2O4S2
